US03953402
3-(1,1-dimethylbutyl)-5-(1,1,3,3-tetramethylbutyl)-4-hydroxyphenyl methacrylate
The compounds of this invention may be prepared according to the method of E. J. Bourne, M. Stacey, J. C. Tetlow, and J. M. Tedder (J. Chem. Soc. 1949 2976) in which one equivalent of a 2,6-di tert.alkyl hydroquinone, such as 2,6-di tert.butyl hydroquinone and 2,6-di tert. 1,3-dimethylbutyl hydroquinone, is reacted with a mixture of 1 to 1.5 equivalents of an α,β-unsaturated organic acid, acrylic acid or methacrylic acid, and 1 to 1.5 equivalents of trifluoroacetic acid anhydride or a mixture of 1 to 1.5 equivalents of an α,β-unsaturated organic acid anhydride such as maleic anhydride and 1 to 1.5 equivalents of trifluoracetic acid. The reaction temperature may vary from room temperature to about 60° C. and the time required to complete the reaction may vary from about 30 minutes to about 12 hours.

reactant | 2,6-di tert.butyl hydroquinone | C(C)(C)(C)C1=C(O)C(=CC(=C1)O)C(C)(C)C | C14H22O2
reactant | 1,3-dimethylbutyl hydroquinone | CC(CC(C)C)C1=C(O)C=CC(=C1)O | C12H18O2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | trifluoroacetic acid anhydride | 1 to 1.5 equivalents | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | trifluoracetic acid | 1 to 1.5 equivalents | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(1,1-dimethylbutyl)-5-(1,1,3,3-tetramethylbutyl)-4-hydroxyphenyl methacrylate | C(C(=C)C)(=O)OC1=CC(=C(C(=C1)C(CC(C)(C)C)(C)C)O)C(CCC)(C)C | C24H38O3
